US04245088
In dichloromethane (10 ml) was suspended 7β-amino-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid (942 mg), followed by the addition of N,N-dimethylacetamide (1 ml). Then, under ice-cooling and stirring, a solution of (1H-tetrazol-1-yl)acetyl chloride (441 mg) in dichloromethane (3 ml) was added. The mixture was further stirred at room temperature for 30 minutes, after which it was poured in an aqueous solution of sodium hydrogen carbonate. The water layer, i.e. aqueous extract, was purified by column-chromatography on Sephadex LH-20. The fractions rich in the desired product were pooled, concentrated, made acidic with phosphoric acid and extracted with ethyl acetate. The extract was dried, concentrated and treated with ether. The procedure provided 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid.

reactant | 7β-amino-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid | 942 mg | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | (1H-tetrazol-1-yl)acetyl chloride | 441 mg | N1(N=NN=C1)CC(=O)Cl | C3H3ClN4O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid | N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C15H16N6O7S
